* E:\Outpost Vault\Outpost Door\Outpost Quick Access\Projects\1) Major Projects\Work for SOAR\PMB REV 2\Code\SOAR_PMB_Rev_2\SPICE SIMS\PMOS Bidirectional Switch.asc
* Generated by LTspice 24.1.4 for Windows.
M1 N002 SWITCH N001 N001 Si4427DY
M2 N002 SWITCH N003 N003 Si4427DY
V1 N001 0 PULSE(0 16 100ms 1u 1u 50ms 60ms 1)
R1 N003 0 100
R2 N002 SWITCH 10000
C1 N002 SWITCH 0.1µ
V2 N004 0 PULSE(0 16 200ms 1u 1u 200ms 205ms 1)
D1 N004 N003 D
V3 SWITCH 0 PULSE(0 16 160ms 1u 1u 1 2 1)
.model D D
.lib C:\Users\reinz\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\reinz\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 500ms
.backanno
.end
